US07534797B2
1-Bromo-8-chloro-3-cyclobutylimidazo[1,5-a]pyrazine
To a clear, vigorously stirred and cooled (0° C.) solution of 8-chloro-3-cyclobutylimidazo[1,5-a]pyrazine (0.75 g, 3.6 mmol) in DCM (90 mL) was added Br2 (0.28 mL, 5.4 mmol) in DCM (90 mL) over 34 min. The reaction became a light orange suspension towards the end of the addition. Stirring was continued at the temperature for 10 min then concentrated under reduced pressure at rt. The mixture was diluted with H2O (˜20 mL), basified with 2 M aq NaOH to ˜pH 7-9 and extracted with DCM (3×80 mL). The organic layers were washed (satd aq NaHCO3, brine), dried (Na2SO4), filtered, and concentrated under reduced pressure. Purification by flash chromatography on silica gel (50 g cartridge, 100% DCM) yielded the title compound as an off-white solid; 1H NMR (400 MHz, CD2Cl2) δ 7.41 (d, J=5.2 Hz, 1H), 7.16 (d, J=5.2 Hz, 1H), 3.70 (qud, J=1.2 Hz, 8.4 Hz, 1H), 2.48-2.33 (m, 4H), 2.13-2.02 (m, 1H), 1.98-1.88 (m, 1H); MS (ES+): m/z 286.1 (90), 288.0 (100) [MH+]; HPLC: tR=3.33 min (OpenLynx, polar—5 min).

reactant | 8-chloro-3-cyclobutylimidazo[1,5-a]pyrazine | 3.6 mmol, 0.75 g | ClC=1C=2N(C=CN1)C(=NC2)C2CCC2 | C10H10ClN3
reactant | Br2 | 5.4 mmol, 0.28 mL | BrBr | Br2
solvent | DCM | 90 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 90 mL | C(Cl)Cl | CH2Cl2
product | 1-Bromo-8-chloro-3-cyclobutylimidazo[1,5-a]pyrazine | BrC=1N=C(N2C1C(=NC=C2)Cl)C2CCC2 | C10H9BrClN3
